US05237070
Using the method of Example 1, 4-aminobenzylcyanide was reacted with 2,6-di-tertiary-butyl-p-benzoquinone to give 2,6-di-tertiary-butyl-4-(4'-cyanomethylphenylimino)-2,5-cyclohexadiene-1-one, m.p. 126.5°-127.5° C. Following the reduction method of Example 1, Step B, the corresponding anilino phenylacetonitrile, m.p. 146°-147° C., was obtained. This was converted to 5-[4-(3,5-di-t-butyl-4-hydroxyanilino)benzyl]tetrazole, m.p. 212°-214° C. (dec), following the method of Example 30, but carried out at 110° C. for 48 hours.

reactant | 4-aminobenzylcyanide | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | 2,6-di-tertiary-butyl-p-benzoquinone | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)(C)C)=O | C14H20O2
product | 2,6-di-tertiary-butyl-4-(4'-cyanomethylphenylimino)-2,5-cyclohexadiene-1-one | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=C1)CC#N)C(C)(C)C)=O | C22H26N2O
